US05753665
A mixture of 1-(1,2,4-triazolo[1,5-a]pyrimidin-7-yl)ethyl benzoate (1 g), potassium carbonate (2 g), methanol (25 ml) and water (20 ml) was stirred at ambient temperature for 1 hour 30 minutes. The methanol was removed from the mixture under reduced pressure and the mixture was then diluted with brine (20 ml) before being continuously extracted with dichloromethane overnight. The extracts were dried over magnesium sulphate and the solvent evaporated under reduced pressure to give 1-(1,2,4-triazolo[1,5-a]pyrimidin-7-yl)ethanol. Yield 0.39 g.

reactant | 1-(1,2,4-triazolo[1,5-a]pyrimidin-7-yl)ethyl benzoate | 1 g | C(C1=CC=CC=C1)(=O)OC(C)C1=CC=NC=2N1N=CN2 | C14H12N4O2
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 25 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 1-(1,2,4-triazolo[1,5-a]pyrimidin-7-yl)ethanol | N1=CN=C2N1C(=CC=N2)C(C)O | C7H8N4O
